US20010007764A1
Boc-D-Cha-Pro-OBzl was prepared according a similar manner as described in example 1 using Boc-D-Cha and Pro-OBzl.

reactant | Boc-D-Cha | N([C@H](CC1CCCCC1)C(=O)O)C(=O)OC(C)(C)C | C14H25NO4
reactant | Pro-OBzl | N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1 | C12H15NO2
product | Boc-D-Cha-Pro-OBzl | N([C@H](CC1CCCCC1)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C26H38N2O5
